US08748418B2
To a solution of 7-hydroxy-6,7-dihydro-5H-[1]pyrindine-3-carbonitrile (1.05 g, 6.56 mmol) in dichloromethane (50 ml) at 0° C. was added Dess-Martin periodinane (2.92 g, 6.88 mmol) and the mixture was stirred at 23° C. for 2 hours. Poured on 1 M Na2CO3-sol. and extracted twice with dichloromethane. The organic layers were washed with diluted NaHSO3 solution and brine, dried over Na2SO4, filtered and evaporated to give a grey solid. The residue was purified by silica gel flash chromatography with n-heptane/ethyl acetate to give the 7-oxo-6,7-dihydro-5H-[1]pyrindine-3-carbonitrile (855 mg, 5.14 mmol, 78.3%) as a dark green solid. MS (ISP): m/z=159.1 [(M+H)+].

reactant | 7-hydroxy-6,7-dihydro-5H-[1]pyrindine-3-carbonitrile | 6.56 mmol, 1.05 g | OC1CCC=2C=C(C=NC12)C#N | C9H8N2O
reactant | Dess-Martin periodinane | 6.88 mmol, 2.92 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | Na2CO3 | 1 M | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 7-oxo-6,7-dihydro-5H-[1]pyrindine-3-carbonitrile | 5.14 mmol, 855 mg, 78.3% | O=C1CCC=2C=C(C=NC12)C#N | C9H6N2O
